US09034879B2
Step 2: 2-(5-Benzyl-1,3,4-oxadiazol-2-yl)-6-bromo-5-(trifluoromethyl)pyridin-3-amine
To a stirred suspension of 3-amino-6-bromo-N′-(2-phenylacetyl)-5-(trifluoromethyl) picolinohydrazide (106 mg, 0.254 mmol) in CHCl3 (2 ml) was added TEA (142 ul, 1.016 mmol) followed by TsCl (145 mg, 0.762 mmol). The mixture was heated to 65° C. for 3 h. The solvent was removed in vacuo and the resulting brown residue was suspended in EtOAc (10 ml). The mixture was washed with brine (10 ml), dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography on silica eluting with 85% iso-hexane/EtOAc to afford the title compound as a yellow solid; 1H NMR (400 MHz, DMSO-d6) δ 7.85 (1H, s), 7.39 (4H, m), 7.30 (3H, m), 4.45 (2H, s). LC-MS Rt=5.84 min [M+H]+ 401.0 Method 10minLC_v002.

reactant | 3-amino-6-bromo-N′-(2-phenylacetyl)-5-(trifluoromethyl) picolinohydrazide | 0.254 mmol, 106 mg | NC=1C(=NC(=C(C1)C(F)(F)F)Br)C(=O)NNC(CC1=CC=CC=C1)=O | C15H12BrF3N4O2
reactant | TsCl | 0.762 mmol, 145 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-Benzyl-1,3,4-oxadiazol-2-yl)-6-bromo-5-(trifluoromethyl)pyridin-3-amine | C(C1=CC=CC=C1)C1=NN=C(O1)C1=NC(=C(C=C1N)C(F)(F)F)Br | C15H10BrF3N4O
